US05552412
5-(6-Methoxy-2-phenyl-3,4-dihydronaphthalen-1-yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine.
Phenyllithium (1.8 M in cyclohexane/ether, 3.8 mL, 7.0 mmol) was added slowly to zinc chloride (0.5 M in THF, 14 mL, 7.0 mmol) at 0° C. After stirring for 15 min, 5-(2-bromo-6-methoxy-3,4-dihydronaphthalen- 1 -yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine (1.0 g, 2.3 mmol) in dry THF (20 mL) was added followed by Pd(PPh3)4 (200 mg, 0.173 mmol). The reaction was warmed to room temperature and was heated at reflux for 4 h. The reaction was poured into aqueous NH4Cl solution (satd). The aqueous layer was washed with CHCl3 (2x) and the combined organic solutions were washed with water followed by brine. The organic solution was dried (MgSO4), filtered, and concentrated in vacuo. Flash chromatography (CHCl3 : MeOH, 95:5) provided the title compound (680 mg, 68%). 1H NMR (250 MHz, CDCl3): δ 7.78 (d, J=2.1 Hz, 1H), 7.27 (m, 1H), 7.07 (m, 5H), 6.68 (m, 4H), 4.40 (t, J=5.8 Hz, 2H), 3.80 (s, 3H), 2.88 (m, 6H), 2.71 (m, 4 H), 1.81 (m, 4H).

reactant | Phenyllithium | 7.0 mmol, 1.8 M, 3.8 mL | C1(=CC=CC=C1)[Li]
reactant | 5-(2-bromo-6-methoxy-3,4-dihydronaphthalen- 1 -yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine | 2.3 mmol, 1.0 g | BrC1=C(C2=CC=C(C=C2CC1)OC)C=1C=CC(=NC1)OCCN1CCCC1 | C22H25BrN2O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 7.0 mmol, 0.5 M, 14 mL | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.173 mmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(6-Methoxy-2-phenyl-3,4-dihydronaphthalen-1-yl)-2-(2-pyrrolidin-1-ylethoxy)pyridine | 680 mg, 68% | COC=1C=C2CCC(=C(C2=CC1)C=1C=CC(=NC1)OCCN1CCCC1)C1=CC=CC=C1 | C28H30N2O2
